US05247042
(2) N-Acetoxyhexyl-1,2,3,4-tetrahydroquinoline
To a stirred solution of 233.4 g (1 mole) of N-hydroxyhexyltetrahydroquinoline and 153.1 g (1.5 moles) of acetic anhydride in dichloromethane are added 151.8 g (1.5 moles) of triethylamine and 8.5 g (1 mole %) of 4-N,N-dimethylaminopyridine, and the reaction is stirred at room temperature for 3 hours. The product solution is washed with cold 2N HCl followed by saturated sodium bicarbonate, and the organic layer is filtered through cotton and evaporated.

reactant | N-hydroxyhexyltetrahydroquinoline | 1 mole, 233.4 g | OCCCCCCN1CCCC2CC=CC=C12 | C15H25NO
reactant | acetic anhydride | 1.5 moles, 153.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.5 moles, 151.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Acetoxyhexyl-1,2,3,4-tetrahydroquinoline | C(C)(=O)OCCCCCCN1CCCC2=CC=CC=C12 | C17H25NO2
